US07888503B2
A round-bottomed flask was charged with 7-bromo-5-(2-fluorophenyl)-1,3-dihydro-2H-1,4-benzodiazepin-2-one (500 mg) and tetrahydrofuran (20 mL). To this mixture was added lithium aluminum hydride (1.8 mL of 1M solution in tetrahydrofuran). The reaction was stirred overnight at room temperature, then quenched with water and 10% sodium hydroxide. The quenched mixture was filtered through Celite and the filter was washed with ethyl acetate. The filtrate was dried over magnesium sulfate, filtered and concentrated to an oil. Silica gel purification provided 7-bromo-5-(2-fluorophenyl)-2,3-dihydro-1H-1,4-benzodiazepine (250 mg) as a yellow powder. H1 NMR (d6-dmso): 7.43-7.50 (m, 1H), 7.40 (dt, 1H), 7.18-7.28 (m, 3H), 6.75-6.81 (m, 2H), 6.71 (d, 1H), 3.95 (m, 2H), 3.49 (m, 2H). Mass (ES+)=319.1 (100%).

reactant | 7-bromo-5-(2-fluorophenyl)-1,3-dihydro-2H-1,4-benzodiazepin-2-one | 500 mg | BrC=1C=CC2=C(C(=NCC(N2)=O)C2=C(C=CC=C2)F)C1 | C15H10BrFN2O
reactant | lithium aluminum hydride | 1M, 1.8 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 7-bromo-5-(2-fluorophenyl)-2,3-dihydro-1H-1,4-benzodiazepine | 250 mg | BrC=1C=CC2=C(C(=NCCN2)C2=C(C=CC=C2)F)C1 | C15H12BrFN2
